US04898607
1-(3,4-epoxy-2,2-dimethyltetralin-1-yl)-5-imidazolecarboxylic acid methyl ester
9.4 g of 55% 3-chloroperbenzoic acid are added to a solution of 8.5 g of 1-(1,2-dihydro-2,2-dimethylnaphthalen-1-yl)-5-imidazolecarboxylic acid methyl ester in 150 ml of methylene chloride and the mixture is stirred at room temperature for 2 hours. The precipitate is separated off and the filtrate is washed twice using 50 ml of sodium hydrogen carbonate solution (5%) each time, dried over magnesium sulfate and concentrated by evaporation. Chromatography of the residue on silica gel [eluant: ether/hexane (3:1)] yields 1.7 g of a mixture of 1,4-cis-1-(3,4-epoxy-2,2-dimethyltetralin-1-yl)-5-imidazolecarboxylic acid methyl ester and 1,4-trans-1-(3,4-epoxy-2,2-dimethyltetralin-1-yl)-5-imidazolecarboxylic acid methyl ester in a ratio of 1:1 (m.p. 60°-68° C.).

reactant | 3-chloroperbenzoic acid | 9.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-(1,2-dihydro-2,2-dimethylnaphthalen-1-yl)-5-imidazolecarboxylic acid methyl ester | 8.5 g | COC(=O)C1=CN=CN1C1C(C=CC2=CC=CC=C12)(C)C | C17H18N2O2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-(3,4-epoxy-2,2-dimethyltetralin-1-yl)-5-imidazolecarboxylic acid methyl ester | 1.7 g | COC(=O)C1=CN=CN1C1C(C2C(C3=CC=CC=C13)O2)(C)C | C17H18N2O3
